US08809525B2
6-(4-Fluorophenyl)-5-phenyl-1,2,4-triazin-3-amine (99 mg, 46%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.21 g, 0.80 mmol) and 4-fluorophenylboronic acid (0.112 g, 0.80 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.80 mmol, 0.21 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 4-fluorophenylboronic acid | 0.80 mmol, 0.112 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 6-(4-Fluorophenyl)-5-phenyl-1,2,4-triazin-3-amine | 99 mg, 46% | FC1=CC=C(C=C1)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H11FN4
